US09085570B2
To a mixture of lithium aluminum hydride (3.35 g, 88.16 mmol, 2.00 equiv) in tetrahydrofuran (100 mL) maintained under nitrogen at −30° C. was added a solution of 2-(4-bromophenyl)-1-morpholinoethanone (12.5 g, 44.17 mmol, 1.00 equiv) in tetrahydrofuran (30 mL) dropwise with stirring. The reaction mixture was stirred at −30° C. for 30 min and then at room temperature for 2 h. The reaction was then quenched sequentially by the addition of 3.5 mL of water, 10 mL of 15% aqueous sodium hydroxide solution and 3.5 mL of water. The solid was removed by filtration. The filtrate was extracted with 1×150 mL of ethyl acetate. The organic layer was collected then washed with 2×30 mL of brine, dried over anhydrous sodium sulfate and concentrated under vacuum to give 11.5 g (97%) of 4-(4-bromophenethyl)morpholine as a white solid. LC-MS: (ES, m/z): 311 [M+CH3CN+H]+, 270 [M+H]+, 130, 102.

reactant | lithium aluminum hydride | 88.16 mmol, 3.35 g, 2.00 equiv | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-(4-bromophenyl)-1-morpholinoethanone | 44.17 mmol, 12.5 g, 1.00 equiv | BrC1=CC=C(C=C1)CC(=O)N1CCOCC1 | C12H14BrNO2
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 4-(4-bromophenethyl)morpholine | 11.5 g, 97% | BrC1=CC=C(CCN2CCOCC2)C=C1 | C12H16BrNO
